US05250554
2-Butyl-6-methyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid
A mixture of ethyl 2-butyl-6-methyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate (0.55 g) in 5N aqueous sodium hydroxide (5 ml) and ethanol (10 ml) was heated for 100 hours under reflux. The reaction mixture was concentrated to dryness and then was dissolved in water, and the solution was made acidic with conc. HCl. Precipitates separated out were collected by filtration and washed with a mixture of dichloromethane and methanol. The precipitates were dissolved in saturated aqueous sodium bicarbonate. After removal of insoluble materials by filtration, the filtrate was made acidic with conc. HCl. Precipitates then separated out were collected by filtration and crystallized from dimethylformamide --H2O to afford colorless crystals (0.22 g, 42%), m.p. 298-299° C.

reactant | ethyl 2-butyl-6-methyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 0.55 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=C(C=C2)C)C(=O)OCC | C29H30N6O2
solvent | sodium hydroxide | 5N, 5 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-Butyl-6-methyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | 0.22 g, 42% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=C(C=C2)C)C(=O)O | C27H26N6O2
